* File: NAND.pex.netlist.pex
* Created: Tue May 24 14:03:57 2016
* Program "Calibre xRC"
* Version "v2012.2_26.20"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND%F 12 13 17 28
c0 28 0 0.285069f
c1 20 0 0.0681929f
c2 9 0 0.180078f
c3 7 0 0.0817273f
r4 19 20 16.3327
r5 17 19 4.59
r6 16 28 0.409348
r7 15 16 8.16635
r8 13 15 2.295
r9 12 15 2.295
r10 10 28 0.105
r11 9 10 0.031094
r12 7 9 0.0185294
r13 4 20 0.132391
r14 3 7 0.0761765
r15 3 4 0.031094
.ends

.subckt PM_NAND%X 9 13 17
c0 15 0 0.0389965f
c1 13 0 0.12667f
c2 9 0 0.19235f
c3 5 0 0.131361f
c4 2 0 0.142882f
r5 11 15 7.73958
r6 11 13 37
r7 7 15 7.73958
r8 7 9 59.25
r9 5 17 0.0653333
r10 4 5 6.6276
r11 2 15 1.29764
r12 2 4 2.96809
.ends

.subckt PM_NAND%E 2 3
c0 5 0 0.163303f
r1 3 5 4.59
r2 2 5 4.59
.ends

.subckt PM_NAND%Y 4 8 17
c0 17 0 0.0920388f
c1 15 0 0.0389783f
c2 12 0 0.138065f
c3 8 0 0.12667f
c4 4 0 0.182593f
r5 12 17 6.6276
r6 10 15 1.29764
r7 10 12 11.9681
r8 6 15 7.73958
r9 6 8 37
r10 2 15 7.73958
r11 2 4 59.25
.ends

.subckt PM_NAND%GND 4 5 12
c0 15 0 0.0697463f
c1 3 0 0.00315398f
c2 2 0 0.0770746f
r3 14 15 16.3327
r4 12 14 4.59
r5 5 10 4.08318
r6 3 15 0.173478
r7 3 4 0.0264739
r8 2 10 0.0545349
r9 2 4 0.0174997
.ends

.subckt PM_NAND%VDD 6 7 8 13
c0 16 0 0.100033f
c1 11 0 0.100118f
c2 5 0 0.00363848f
c3 4 0 0.0303516f
c4 2 0 0.00363887f
r5 15 16 8.16635
r6 13 15 2.295
r7 10 11 8.16635
r8 8 10 2.295
r9 7 22 4.08318
r10 5 16 0.176522
r11 5 6 0.0260585
r12 4 22 0.0545349
r13 4 6 0.0179152
r14 3 11 0.176522
r15 2 22 0.132674
r16 2 3 0.0439737
.ends

