* File: NOR.pex.netlist.pex
* Created: Tue May 24 14:45:42 2016
* Program "Calibre xRC"
* Version "v2012.2_26.20"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR%F 12 14 19 20
c0 23 0 0.217176f
c1 17 0 0.117855f
c2 12 0 0.171147f
c3 7 0 0.0813589f
r4 22 23 16.3327
r5 20 22 4.59
r6 19 22 4.59
r7 16 17 8.16635
r8 14 16 2.295
r9 10 23 0.345435
r10 9 12 0.00480392
r11 9 10 0.031094
r12 7 9 0.0185294
r13 4 17 0.301304
r14 3 7 0.0761765
r15 3 4 0.031094
.ends

.subckt PM_NOR%X 9 12 16
c0 14 0 0.0389783f
c1 12 0 0.235244f
c2 7 0 0.0873548f
c3 5 0 0.142994f
c4 2 0 0.142105f
r5 10 14 7.73958
r6 10 12 75
r7 7 14 7.73958
r8 7 9 21.25
r9 5 16 0.0668889
r10 4 5 6.6276
r11 2 14 1.29764
r12 2 4 2.7766
.ends

.subckt PM_NOR%E 2 3
c0 5 0 0.255466f
r1 3 5 2.295
r2 2 5 2.295
.ends

.subckt PM_NOR%Y 4 7 16
c0 16 0 0.098806f
c1 14 0 0.0389783f
c2 11 0 0.138582f
c3 7 0 0.221775f
c4 2 0 0.0873548f
r5 11 16 6.6276
r6 9 14 1.29764
r7 9 11 11.9681
r8 5 14 7.73958
r9 5 7 75
r10 2 14 7.73958
r11 2 4 21.25
.ends

.subckt PM_NOR%GND 6 7 14 19
c0 22 0 0.0734057f
c1 17 0 0.0735167f
c2 5 0 0.00598933f
c3 4 0 0.0387124f
c4 2 0 0.00599243f
r5 21 22 16.3327
r6 19 21 4.59
r7 16 17 16.3327
r8 14 16 4.59
r9 7 12 4.08318
r10 5 22 0.173478
r11 5 6 0.0264739
r12 4 12 0.0545349
r13 4 6 0.0174997
r14 3 17 0.173478
r15 2 12 0.132674
r16 2 3 0.0439737
.ends

.subckt PM_NOR%VDD 4 5 6
c0 9 0 0.106941f
c1 3 0 0.00220361f
c2 2 0 0.0672749f
r3 8 9 8.16635
r4 6 8 2.295
r5 5 15 4.08318
r6 3 9 0.176522
r7 3 4 0.0277728
r8 2 15 0.0545349
r9 2 4 0.0162008
.ends

